US05756510
3-(Phenethyl)oxybenzamide (Compound NU1048)
3-Hydroxybenzamide (500 mg; 3.6 mM) was dissolved in dry acetonitrile (36 ml), and to this was added potassium carbonate (0.503 g; 3.6 mmol) and 2-(bromoethyl)benzene (0.498 ml; 3.6 mmol). The mixture was heated under reflux for two days. The acetonitrile was removed under reduced pressure to yield a white solid. This was dissolved in water and extracted into dichloromethane (3×30 ml). The organics were pooled, dried over magnesium sulphate, filtered and the solvent was removed under reduced pressure to yield a white solid. This was recrystallised from boiling ethyl acetate and petrol (0.459 g; 12.51%).

reactant | 3-Hydroxybenzamide | 3.6 mM, 500 mg | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | potassium carbonate | 3.6 mmol, 0.503 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromoethyl)benzene | 3.6 mmol, 0.498 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetonitrile | 36 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-(Phenethyl)oxybenzamide | C(CC1=CC=CC=C1)OC=1C=C(C(=O)N)C=CC1 | C15H15NO2
